US07332501B2
1′-[(2-Methyl-1,2,3,4-tetrahydropyrazino[1,2-a]indol-10-yl)carbonyl]-3H-spiro[2-benzofuran-1,4′-piperidine]
A solution of 0.050 g (0.12 mmol) 1′-(1,2,3,4-tetrahydropyrazino[1,2-a]indol-10-ylcarbonyl)-3H-spiro[2-benzofuran-1,4′-piperidine]hydrochloride, 0.033 ml (0.24 mmol) triethylamine and 0.028 g (0.94 mmol) paraformaldehyde in 2 ml methanol was heated at reflux for 1 h. The reaction mixture was cooled to 0° C. on an ice-water bath and treated with 0.011 g (0.18 mmol) sodium cyanoborohydride. After completed addition the mixture was allowed to warm to room temperature and stirred for 2 h. Quenching with water and dilution with 2 M aqueous sodium carbonate solution was followed by extraction with dichloromethane (2×50 ml). The combined organic layers were dried over sodium sulfate, concentrated in vacuo and purified by flash-chromatography (aminopropyl-modified silica gel, n-heptane/ethyl acetate) to give the title compound (0.036 g, 76%) as an off-white solid.

reactant | 1′-(1,2,3,4-tetrahydropyrazino[1,2-a]indol-10-ylcarbonyl)-3H-spiro[2-benzofuran-1,4′-piperidine]hydrochloride | 0.12 mmol, 0.050 g | Cl.C1NCCN2C1=C(C=1C=CC=CC21)C(=O)N2CCC1(CC2)OCC2=C1C=CC=C2
reactant | triethylamine | 0.24 mmol, 0.033 ml | C(C)N(CC)CC | C6H15N
reactant | paraformaldehyde | 0.94 mmol, 0.028 g | C=O | CH2O
reactant | sodium cyanoborohydride | 0.18 mmol, 0.011 g | C(#N)[BH3-].[Na+]
solvent | methanol | 2 ml | CO | CH4O
product | 1′-[(2-Methyl-1,2,3,4-tetrahydropyrazino[1,2-a]indol-10-yl)carbonyl]-3H-spiro[2-benzofuran-1,4′-piperidine] | 0.036 g, 76% | CN1CC=2N(C=3C=CC=CC3C2C(=O)N2CCC3(CC2)OCC2=C3C=CC=C2)CC1 | C25H27N3O2
